US04100152
(a) Synthesis of Z-Pro-NHCH2CH2CH2CH3
12.5 g. (0.05 M) of Z-Pro-OH is converted to active ester as in Example 3 (a) and, with the addition of 5.7 ml. (0.06 M) of n-butylamine, it is stirred for 12 hours. The dioxane is distilled off under reduced pressure and the residue is dissolved in ethyl acetate. The ethyl acetate layer is washed with 5% NaHCO3 and 1N-HCl, followed by drying. The ethyl acetate is distilled off under reduced pressure and, following the addition of petroleum benzin, the residue is filtered. The crude product is recrystallized from ethyl acetate. Yield 14.0 g. (92.7%); melting point: 94.0°-95.0° C, optical rotation [α]D21 -39.6° (c=0.54, in N,N-dimethylformamide)

reactant | Z-Pro-OH | 0.05 M | N1([C@H](C(=O)O)CCC1)C(=O)OCC1=CC=CC=C1 | C13H15NO4
reactant | n-butylamine | 0.06 M | C(CCC)N | C4H11N
product | Z-Pro-NHCH2CH2CH2CH3 | N1([C@H](C(=O)NCCCC)CCC1)C(=O)OCC1=CC=CC=C1 | C17H24N2O3
